US09119868B2
Step 3: 4-(N-(2-(4-chlorophenyl)-5-cyclopropyl-3-(methylcarbamoyl)benzofuran-6-yl)methylsulfonamido)-2-fluorophenyl trifluoromethanesulfonate
Tf2O (0.157 mL, 0.930 mmol) in CH2Cl2 (1 mL) was added dropwise to a suspension of 2-(4-chlorophenyl)-5-cyclopropyl-6-(N-(3-fluoro-4-hydroxyphenyl)methylsulfonamido)-N-methylbenzofuran-3-carboxamide (328 mg, 0.620 mmol) and pyridine (0.251 mL, 3.10 mmol) in CH2Cl2 (5 mL) under N2 at room temperature. The mixture was stirred at room temperature for 3 h then water was added. The mixture was extracted with CH2Cl2 and the combined organic phases were dried over Na2SO4, filtered, concentrated at reduced pressure, and purified by flash chromatography on silica gel eluted (0-40% EtOAc/hexane) to give the desired compound as a white solid (410 mg, 83% yield). LCMS (m/z, ES+)=661 (M+H+).

reactant | Tf2O | 0.930 mmol, 0.157 mL | O(S(=O)(=O)C(F)(F)F)S(=O)(=O)C(F)(F)F | C2F6O5S2
reactant | 2-(4-chlorophenyl)-5-cyclopropyl-6-(N-(3-fluoro-4-hydroxyphenyl)methylsulfonamido)-N-methylbenzofuran-3-carboxamide | 0.620 mmol, 328 mg | ClC1=CC=C(C=C1)C=1OC2=C(C1C(=O)NC)C=C(C(=C2)N(S(=O)(=O)C)C2=CC(=C(C=C2)O)F)C2CC2 | C26H22ClFN2O5S
reactant | pyridine | 3.10 mmol, 0.251 mL | N1=CC=CC=C1 | C5H5N
reactant | water | O | H2O
solvent | CH2Cl2 | 1 mL | C(Cl)Cl | CH2Cl2
solvent | CH2Cl2 | 5 mL | C(Cl)Cl | CH2Cl2
product | 4-(N-(2-(4-chlorophenyl)-5-cyclopropyl-3-(methylcarbamoyl)benzofuran-6-yl)methylsulfonamido)-2-fluorophenyl trifluoromethanesulfonate | 410 mg, 83% yield | FC(S(=O)(=O)OC1=C(C=C(C=C1)N(S(=O)(=O)C)C1=CC2=C(C(=C(O2)C2=CC=C(C=C2)Cl)C(NC)=O)C=C1C1CC1)F)(F)F | C27H21ClF4N2O7S2
